US08309718B2
4-(4-(1-(2-cyano-1-cyclopropylethyl)-1H-pyrazol-4-yl)pyrimidin-2-ylamino)benzoic Acid
A mixture of 3-(4-(2-chloropyrimidin-4-yl)-1H-pyrazol-1-yl)-3-cyclopropylpropanenitrile (2.74 g, 0.0100 mol), p-aminobenzoic acid (2.06 g, 0.0150 mol), and p-toluenesulfonic acid (1.5 g, 0.0085 mol) in dry 1,4-dioxane (80 mL) was refluxed overnight. The mixture was cooled to room temperature, filtered. The solid was washed with dioxane, air dried to yield the desired product as a racemic mixture (3.02 g, 80.58%). LCMS (M+H) 375.3.

reactant | 3-(4-(2-chloropyrimidin-4-yl)-1H-pyrazol-1-yl)-3-cyclopropylpropanenitrile | 0.0100 mol, 2.74 g | ClC1=NC=CC(=N1)C=1C=NN(C1)C(CC#N)C1CC1 | C13H12ClN5
reactant | p-aminobenzoic acid | 0.0150 mol, 2.06 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | p-toluenesulfonic acid | 0.0085 mol, 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 1,4-dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | 4-(4-(1-(2-cyano-1-cyclopropylethyl)-1H-pyrazol-4-yl)pyrimidin-2-ylamino)benzoic Acid | C(#N)CC(C1CC1)N1N=CC(=C1)C1=NC(=NC=C1)NC1=CC=C(C(=O)O)C=C1 | C20H18N6O2
